US07935815B2
Synthesis of ethyl (2-fluoro-3-methylphenyl)acetate
A mixture of 2-fluoro-3-methylbenzyl bromide (2.0 g), sodium cyanide (2.41 g), sodium iodide (148 mg) and DMSO (10 ml) was stirred at 60° C. for two hours. Water and ethyl acetate were added to the reaction solution, and the organic layer was separated. The organic layer was washed with brine. The resulting organic layer was dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure. 5 N hydrochloric acid (15 ml) was added to the residue, and the reaction solution was heated at 110° C. for 22 hours. The reaction solution was brought to room temperature. Chloroform was added and the organic layer was separated. The organic layer was concentrated under reduced pressure. Saturated hydrogen chloride-ethanol (15 ml) was added to the residue, and the reaction solution was stirred at 85° C. for four hours. The reaction solution was concentrated under reduced pressure, and then diluted with ethyl acetate and washed with saturated sodium bicarbonate water and then with brine. The resulting organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain the title compound (1.1 g). The property values of the compound are as follows.

reactant | 2-fluoro-3-methylbenzyl bromide | 2.0 g | FC1=C(CBr)C=CC=C1C | C8H8BrF
reactant | sodium cyanide | 2.41 g | [C-]#N.[Na+]
reactant | sodium iodide | 148 mg | [I-].[Na+]
reactant | DMSO | 10 ml | CS(=O)C | C2H6OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | ethyl (2-fluoro-3-methylphenyl)acetate | 1.1 g | FC1=C(C=CC=C1C)CC(=O)OCC | C11H13FO2
